US06200995B1
15.1 Preparation of 5-(4-nitrophenoxy)-3-chloropyridine
To a stirred solution of 4-fluoro-nitrobenzene (913 μL, 8.61 mmol, from Aldrich) in dioxane (1 mL) was added 3-chloro-5-hydroxypyridine (558 mg, 4.31 mmol, from Aldrich) followed by triethylamine (661 μL, 4.74 mmol). The solution was refluxed for 4.5 hours, evaporated and the crude solid was dissolved in ethyl acetate. The solution was washed three times with saturated K2CO3 solution, once with brine and then back-extracted with ethyl acetate. The two organic solutions were combined, concentrated and the residue was purified by chromatography (diethyl ether as eluant) to provide 481 mg of the title compound.

reactant | 4-fluoro-nitrobenzene | 8.61 mmol, 913 μL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 3-chloro-5-hydroxypyridine | 4.31 mmol, 558 mg | ClC=1C=NC=C(C1)O | C5H4ClNO
reactant | triethylamine | 4.74 mmol, 661 μL | C(C)N(CC)CC | C6H15N
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 5-(4-nitrophenoxy)-3-chloropyridine | 481 mg | [N+](=O)([O-])C1=CC=C(OC=2C=C(C=NC2)Cl)C=C1 | C11H7ClN2O3
